US07354932B2
To a solution of ethyl isonipecotate (0.750 g, 4.77 mmol) in THF (24 mL) was added water (1 mL) followed by di-tert-butyl dicarbonate (1.09 g, 5.00 mmol) and the resultant mixture was stirred at room temperature for one hour. The mixture was diluted with ethyl acetate (50 mL) and the organic phase was washed with brine (3×20 mL), dried (MgSO4), and concentrated to provide 1.20 g (98%) of 1-(tert-butoxycarbonyl)-4-(carboethoxy)-piperidine as a colorless oil.

reactant | ethyl isonipecotate | 4.77 mmol, 0.750 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | water | 1 mL | O | H2O
reactant | di-tert-butyl dicarbonate | 5.00 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-(tert-butoxycarbonyl)-4-(carboethoxy)-piperidine | 1.20 g, 98% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)OCC | C13H23NO4
